US07745462B2
A suspension of methanesulfonic acid (7R,8S)-8-methanesulfonyloxymethyl-1,4-dioxaspiro-[4.4]non-7-ylmethyl ester (0.250 g, 0.73 mmol) in n-butylamine (1 ml) is heated at 90° C. for 3 hours. The reaction is evaporated and partitioned between EtOAc and 2M aqueous NaOH. The organic phase is washed with brine, dried (MgSO4) and evaporated. The crude product is purified by flash chromatography, eluting with EtOAc to afford (3aR,6aS)-2-butylspiro[hexahydrocyclopenta[c]pyrrole-5(1H),2′-[1,3]dioxolane], M+226.

reactant | methanesulfonic acid (7R,8S)-8-methanesulfonyloxymethyl-1,4-dioxaspiro-[4.4]non-7-ylmethyl ester | 0.73 mmol, 0.250 g | CS(=O)(=O)OC[C@@H]1[C@@H](CC2(OCCO2)C1)COS(=O)(=O)C | C11H20O8S2
reactant | n-butylamine | 1 ml | C(CCC)N | C4H11N
product | (3aR,6aS)-2-butylspiro[hexahydrocyclopenta[c]pyrrole-5(1H),2′-[1,3]dioxolane] | C(CCC)N1C[C@@H]2[C@H](C1)CC1(OCCO1)C2 | C13H23NO2
